US04061761
3-Hydroxy-3-(4-methyl-3-sulfamoylphenyl)-2,3,6,7-tetrahydro-5H-thiazolo[3,2-a]pyrimidine-hydrochloride
5 g of 2-chloro-4'-methyl-3'-sulfamoylacetophenone and 2.35 g of ground 3,4,5,6-tetrahydro-2-pyrimidine-thiol were reacted as prescribed in Example 12 and worked up as prescribed in Example 67d). Colorless crystals, melting point: 190° C (decomposition).

reactant | 2-chloro-4'-methyl-3'-sulfamoylacetophenone | 5 g | ClCC(=O)C1=CC(=C(C=C1)C)S(N)(=O)=O | C9H10ClNO3S
reactant | 3,4,5,6-tetrahydro-2-pyrimidine-thiol | N1=C(NCCC1)S | C4H8N2S
product | 3-Hydroxy-3-(4-methyl-3-sulfamoylphenyl)-2,3,6,7-tetrahydro-5H-thiazolo[3,2-a]pyrimidine-hydrochloride | Cl.OC1(CSC=2N1CCCN2)C2=CC(=C(C=C2)C)S(N)(=O)=O | InChI=1S/C13H17N3O3S2.ClH/c1-9-3-4-10(7-11(9)21(14,18)19)13(17)8-20-12-15-5-2-6-16(12)13;/h3-4,7,17H,2,5-6,8H2,1H3,(H2,14,18,19);1H
